data/rdb19/train.csv
rxn,smiles,ea
3774,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17](=[C:18]([N:19][C:20](=[O:21])[H:26])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:25])([H:10])[H:11])([H:7])([H:8])[H:9],23.29825741495005
1213,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],31.129597963765264
5414,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:9])[H:10],17.24355571315391
1666,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:22]1([H:36])[C:21]([H:35])[C:20]([H:34])=[C:19]([C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([C:18]([H:31])([H:32])[H:33])[H:30])[C:24]([H:38])=[C:23]1[H:37])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],20.34782737813657
1594,[C:15]([C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:17]([C:16]([C:15]([H:19])([H:20])[H:21])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23],29.83070411317749
3830,[C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]=[C:4]([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:20]([C:17]([C:15]([O:14][C:13]([H:23])([H:24])[H:25])=[O:16])([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])([H:21])[H:22],22.84311342454748
523,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8](=[O:9])[O:10][C:11](=[C:12]([H:17])[H:18])[H:16])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][H:13])([H:4])([H:5])[H:6].[C:7]([C:8](=[O:9])[O:10][C:11](=[C:12]([H:17])[H:18])[H:16])([H:14])[H:15],29.15765576268313
244,[O:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:8])[O:12][O:11][H:13])[H:7])[H:6]>>[O:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:8])[O:12][O:11])([H:7])[H:13])[H:6],22.551815126120346
3861,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])[H:7].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])([H:9])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28],65.43407590972492
2889,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([H:22])[C:23]([C:24]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:21]([C:19]([O:18][C:17]([C:16]([H:25])([H:26])[H:27])([H:28])[H:29])=[O:20])([H:22])[C:23]([C:24]([H:32])([H:33])[H:34])([H:30])[H:31])([H:11])[H:12])([H:8])([H:9])[H:10],33.456909767584875
901,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[H:23])[O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],53.606094522518106
3795,[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:1]([H:5])([H:6])([H:7])[O:13][H:14].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9],42.11362453995389
